US06638929B2
According to the procedure of example 101, 446.7 mg (1.8 mmol) of 8-methoxy-4-oxo-1,4-dihydrobenzo[g]quinoline-3-carbonitrile is refluxed in 102 mL of phosphorus oxychloride and 4 drops of N,N-dimethylformamide (DMF) for 1.5 hours to give 389.0 mg (81.6%) of 4-chloro-8-methoxy-benzo[g]quinoline-3-carbonitrile as a bright yellow solid, mp 258-260° C.

reactant | 8-methoxy-4-oxo-1,4-dihydrobenzo[g]quinoline-3-carbonitrile | 1.8 mmol, 446.7 mg | COC1=CC2=C(C=C3C(C(=CNC3=C2)C#N)=O)C=C1 | C15H10N2O2
reactant | phosphorus oxychloride | 102 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
catalyst | N,N-dimethylformamide | 4 drops | CN(C=O)C | C3H7NO
product | 4-chloro-8-methoxy-benzo[g]quinoline-3-carbonitrile | 389.0 mg, 81.6% | ClC1=C(C=NC2=CC3=C(C=C12)C=CC(=C3)OC)C#N | C15H9ClN2O
